US06875765B2
A solution of (S)-3-(2-benzyloxy-4-nitro-benzenesulfonylamino)-succinamic acid tert-butyl ester (1.30 g, 2.70 mmol) in THF (75 mL) was shaken with Raney Nickel (0.50 g) under H2 (33 psi) for 18 h using a Parr apparatus. The reaction mixture was filtered through celite and concentrated. (S)-3-(4-Amino-2-benzyloxy-benzenesulfonylamino)-succinamic acid tert-butyl ester was obtained (1.20 g, 98%) as an off white solid. MS (APCI) m/z 448.1 (M−1).

reactant | (S)-3-(2-benzyloxy-4-nitro-benzenesulfonylamino)-succinamic acid tert-butyl ester | 2.70 mmol, 1.30 g | C(C)(C)(C)OC(C[C@@H](C(=O)N)NS(=O)(=O)C1=C(C=C(C=C1)[N+](=O)[O-])OCC1=CC=CC=C1)=O | C21H25N3O8S
solvent | THF | 75 mL | C1CCOC1 | C4H8O
catalyst | Raney Nickel | 0.50 g | [Ni] | Ni
product | (S)-3-(4-Amino-2-benzyloxy-benzenesulfonylamino)-succinamic acid tert-butyl ester | C(C)(C)(C)OC(C[C@@H](C(=O)N)NS(=O)(=O)C1=C(C=C(C=C1)N)OCC1=CC=CC=C1)=O | C21H27N3O6S
